### ISSUE TITLE
Lint unused explicit arguments passed to `grind`

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#61]
We could write a linter to detect when an argument supplied to `grind` is unused.

e.g detect:

```lean
example (P : Prop) (hP : P) : P := by
  grind [Nat.add_comm]
```

and suggest:

```lean
example (P : Prop) (hP : P) : P := by
  grind
```

Originally suggested by @JovanGerb and @chenson2018
